US05039696
A suspension of 2.0 g of L-phenylalanine in 30 ml of n-propyl alcohol was heated to 50° C., 3.5 ml of thionyl chloride added thereto, and the reaction then continued for 5 hours until the L-phenylalanine crystals were dissolved. After completion of the reaction, the mixture was concentrated under a reduced pressure to obtain crude crystals. These crystals were then recrystallized from a solvent mixture of methanol-ether to give 2.93 g of L-phenyl alanine n-propyl ester hydrochloride as colorless crystals (yield: 99%).

reactant | L-phenylalanine | 2.0 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | thionyl chloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | n-propyl alcohol | 30 ml | C(CC)O | C3H8O
product | L-phenyl alanine n-propyl ester hydrochloride | 2.93 g, yield: 99% | Cl.C(CC)OC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C12H17NO2.ClH/c1-2-8-15-12(14)11(13)9-10-6-4-3-5-7-10;/h3-7,11H,2,8-9,13H2,1H3;1H/t11-;/m0./s1
